US04542243
The reaction mixture was cooled to room temperature and the gas was released. 100 ml of benzene was charged in the autoclave to dissolve an oil. An insoluble matter was filtered out. After washing with 20 ml of benzene, a resulting mother wash solution was shaken well and then left to stand to obtain a benzene layer. The benzene layer was washed with 100 ml of water three times. Benzene was distilled off under reduced pressure to obtain an oily product. According to gas chromatographic analysis by the internal standard method, the oily product contained 98.5% of intended 3-phenoxybenzyl 2-(4-ethoxyphenyl)-2-methylpropyl ether and 0.3% of starting material 3-phenoxybenzyl 2-(3-bromo-4-ethoxyphenyl)-2-methylpropyl ether. The amounts of 3-phenoxytoluene and 4-ethoxyneophy alcohol formed by ether bond cleavage were each less than 0.2%.

reactant | 3-phenoxybenzyl 2-(4-ethoxyphenyl)-2-methylpropyl ether | C(C)OC1=CC=C(C=C1)C(COCC1=CC(=CC=C1)OC1=CC=CC=C1)(C)C | C25H28O3
reactant | 3-phenoxybenzyl 2-(3-bromo-4-ethoxyphenyl)-2-methylpropyl ether | BrC=1C=C(C=CC1OCC)C(COCC1=CC(=CC=C1)OC1=CC=CC=C1)(C)C | C25H27BrO3
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 3-phenoxytoluene | yield: 98.0% | O(C1=CC=CC=C1)C=1C=C(C=CC1)C | C13H12O
